US04110536
3-(3-Diethylaminopropyl)-5-(indol-3-ylmethyl)hydantoin
A mixture of 5-(indol-3-ylmethyl)hydantoin (10 g, 0.04 mole), 3-chloro-N,N-diethylpropylamine hydrochloride (8.2 g, 0.04 mole), NaOC2H5 (0.08 mole) and 500 ml of anhydrous C2H5OH was heated to reflux with stirring for 20 hours. The mixture was filtered and concentrated to dryness. The concentrate was dissolved in CHCl3, filtered and concentrated. The concentrate was crystallized and recrystallized from benzene-petroleum ether. The solid was again recrystallized from xylene and the solvated solid was dried in vacuum, yield 2.5 g, mp 90°.

reactant | 5-(indol-3-ylmethyl)hydantoin | 0.04 mole, 10 g | N1C=C(C2=CC=CC=C12)CC1C(NC(N1)=O)=O | C12H11N3O2
reactant | 3-chloro-N,N-diethylpropylamine hydrochloride | 0.04 mole, 8.2 g | Cl.ClCCCN(CC)CC
reactant | NaOC2H5 | 0.08 mole | CC[O-].[Na+]
solvent | C2H5OH | 500 ml | C(C)O | C2H6O
product | 3-(3-Diethylaminopropyl)-5-(indol-3-ylmethyl)hydantoin | C(C)N(CCCN1C(NC(C1=O)CC1=CNC2=CC=CC=C12)=O)CC | C19H26N4O2
